US07960561B2
N-(Benzoimidazol-2-yl)-3-cyanoaniline
The title compound was prepared from 2-chlorobenzimidazole and 3-aminobenzonitrile by Procedure A. The product was isolated by filtration and preparative LCMS to give the title compound as the free base (white solid, mp 272-274° C.). MS(ES+) m/z 235 ([M+1]+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 3-aminobenzonitrile | NC=1C=C(C#N)C=CC1 | C7H6N2
product | N-(Benzoimidazol-2-yl)-3-cyanoaniline | N1=C(NC2=C1C=CC=C2)NC2=CC(=CC=C2)C#N | C14H10N4
